US07271262B2
247A. 7-Cyclopentyl-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine
To a pressure tube with dioxane (5 mL) was added 4-Chloro-7-cyclopentyl-5-iodo-7H-pyrrolo[2,3-d]pyrimidine, then ammonia hydroxide (5 mL). The pressure tube was sealed and heated at 120 C overnight. All solvents were removed via reduced pressure, and the residue were purified through flash column (methylene chloride/methanol:97/3). The product was obtained as a white solid (300 mg, 92%). MS: 329.1 (MH+); HPLC Rf: 5.018 min.; HPLC

reactant | 4-Chloro-7-cyclopentyl-5-iodo-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)N(C=C2I)C2CCCC2 | C11H11ClIN3
reactant | ammonia hydroxide | 5 mL | [OH-].N
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 7-Cyclopentyl-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | 300 mg, 92% | C1(CCCC1)N1C=C(C2=C1N=CN=C2N)I | C11H13IN4
